US09056859B2
6-(4-{[4-(1H-Tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)-5,6,7,8-tetrahydronaphthalene-2-carbonitrile was prepared in an analogous fashion to that described above for the synthesis of 5-[2-(4-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)propyl]-2-benzofuran-1(3H)-one starting from 1-(piperazin-1-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride and known compound 6-oxo-5,6,7,8-tetrahydronaphthalene-2-carbonitrile (Ralf Heim, et al. J. Med. Chem. 2008, 51(16), 5064-5074). LC/MS: [(M+1)]+=428.

reactant | 5-[2-(4-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)propyl]-2-benzofuran-1(3H)-one | N1(N=NN=C1)C1=CC=C(C=C1)CC(=O)N1CCN(CC1)C(CC1=CC2=C(C(OC2)=O)C=C1)C | C24H26N6O3
reactant | 1-(piperazin-1-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride | Cl.N1(CCNCC1)C(CC1=CC=C(C=C1)N1N=NN=C1)=O
reactant | 6-oxo-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | O=C1CC=2C=CC(=CC2CC1)C#N | C11H9NO
product | 6-(4-{[4-(1H-Tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | N1(N=NN=C1)C1=CC=C(C=C1)CC(=O)N1CCN(CC1)C1CC=2C=CC(=CC2CC1)C#N | C24H25N7O
